US08304419B2
Step A: 4-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-formyl-1H-imidazole-5-carboxamide
MnO2 (2.5 g, 29 mmol) was added to a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(hydroxymethyl)-1H-imidazole-5-carboxamide (428 mg, 0.91 mmol) in DCM (30 mL) and 1,4-dioxane (5.0 mL). The mixture was stirred for 66 h and then the MnO2 was filtered off by through a pad of celite. Resin with 10% MeCN in DCM and the filtrates were concentrated, dried in vacuo to give the crude product (128 m, 30%) which was used for the next step without purification.

reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(hydroxymethyl)-1H-imidazole-5-carboxamide | 0.91 mmol, 428 mg | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)CO | C19H12Cl3FN4O3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 29 mmol, 2.5 g | O=[Mn]=O
product | 4-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-formyl-1H-imidazole-5-carboxamide | 30% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)C=O | C19H10Cl3FN4O3
